US06599890B1
To a stirred, cold (0° C.) solution of (2R,4R)-1-[3-(4-fluorophenoxy)-propane-1-sulfonyl]-2-hydroxycarbamoyl-piperidine-4-carboxylic acid methyl ester (400 mg, 0.96 mmol) in 5 mL of a methanol/water mixture (10:1) was added lithium hydroxide monohydrate (120 mg, 2.88 mmol). After 3 hours at 0° C., prerinsed (methanol) Amberlite resin (4.1 g) was added. The mixture was filtered and the filtrate was concentrated to give 370 mg of (2R,4R)-1-[3-(4-fluorophenoxy)-propane-1-sulfonyl]-2-hydroxycarbamoyl-piperidine-4-carboxylic acid as a white foam: MS (atmospheric pressure chemical ionization) acidic mode, 403 (M−1).

reactant | (2R,4R)-1-[3-(4-fluorophenoxy)-propane-1-sulfonyl]-2-hydroxycarbamoyl-piperidine-4-carboxylic acid methyl ester | 0.96 mmol, 400 mg | COC(=O)[C@H]1C[C@@H](N(CC1)S(=O)(=O)CCCOC1=CC=C(C=C1)F)C(NO)=O | C17H23FN2O7S
reactant | lithium hydroxide monohydrate | 2.88 mmol, 120 mg | O.[OH-].[Li+]
reactant | methanol | CO | CH4O
solvent | methanol water | 5 mL | CO.O
product | (2R,4R)-1-[3-(4-fluorophenoxy)-propane-1-sulfonyl]-2-hydroxycarbamoyl-piperidine-4-carboxylic acid | 370 mg | FC1=CC=C(OCCCS(=O)(=O)N2[C@H](C[C@@H](CC2)C(=O)O)C(NO)=O)C=C1 | C16H21FN2O7S
